US07393852B2
F. Preparation of (R)-N-(1-(2-(tert-butyldimethylsilyloxy)ethyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl)-2-(3-oxo-1-tosylpiperazin-2-yl)acetamide.
A solution of (R)-2-(3-oxo-1-tosylpiperazin-2-yl)acetic acid (624 mg, 2.0 mmol), 1-(2-(tert-butyldimethylsilyloxy)ethyl)-4,5,6,7-tetrahydro-1H-indazol-4-amine (649 mg, 2.2 mmol), HOBt (297 mg, 2.2 mmol) and EDCI (422 mg, 2.2 mmol) in 1.2 mL of DMF was stirred overnight at room temperature. After quenching with Sat. NaHCO3 solution, the reaction mixture was extracted with EtOAc. The combined organic phase was washed brine, dried over Na2SO4, and evaporated in vaco. Flash chromatography (SiO2, EtOAc/MeOH=100:4 to 100:8 to 100:10 to 100:15) gave the title compound as a white solid. MS: 590.2 (M+1).

reactant | (R)-2-(3-oxo-1-tosylpiperazin-2-yl)acetic acid | 2.0 mmol, 624 mg | O=C1[C@H](N(CCN1)S(=O)(=O)C1=CC=C(C)C=C1)CC(=O)O | C13H16N2O5S
reactant | 1-(2-(tert-butyldimethylsilyloxy)ethyl)-4,5,6,7-tetrahydro-1H-indazol-4-amine | 2.2 mmol, 649 mg | [Si](C)(C)(C(C)(C)C)OCCN1N=CC=2C(CCCC12)N | C15H29N3OSi
reactant | HOBt | 2.2 mmol, 297 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 2.2 mmol, 422 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | (R)-N-(1-(2-(tert-butyldimethylsilyloxy)ethyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl)-2-(3-oxo-1-tosylpiperazin-2-yl)acetamide | [Si](C)(C)(C(C)(C)C)OCCN1N=CC=2C(CCCC12)NC(C[C@H]1N(CCNC1=O)S(=O)(=O)C1=CC=C(C)C=C1)=O | C28H43N5O5SSi
